US06265349B1
Preparation of 3-[7-fluoro-2,3-dihydro-4-(2-propynyl)-1,4-benzoxazin-3-on-6-yl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 2-1)
0.3 g (0.87 mmol) of 3-(7-fluoro-2,3-dihydro-1,4-benzoxazin-3-on-6-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone was dissolved in 1 ml of DMF, and 0.04 g (1 mmol) of 60% sodium hydride was added under cooling with ice, followed by stirring at room temperature for 15 minutes. Then, 0.12 g (1 mmol) of propargyl bromide was added thereto. The mixture was stirred at room temperature for 3 hours, then poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and then, the obtained residue was purified by silica gel column chromatography to obtain 0.24 g (yield: 72%) of the desired product. Melting point: 166-168° C. 1H-NMR (400 MHz, CDCl3) δ value: 2.24(1H,t), 3.68(3H,s), 4.63(2H,s), 4.68(2H,d), 6.76(1H,d), 6.83(1H,d), 7.40(1H,d), 7.51(1H,d)ppm.

reactant | 3-(7-fluoro-2,3-dihydro-1,4-benzoxazin-3-on-6-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.87 mmol, 0.3 g | FC1=CC2=C(NC(CO2)=O)C=C1C=1C(N(C(=CC1)C(F)(F)F)C)=O | C15H10F4N2O3
reactant | sodium hydride | 1 mmol, 0.04 g | [H-].[Na+]
reactant | propargyl bromide | 1 mmol, 0.12 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-[7-fluoro-2,3-dihydro-4-(2-propynyl)-1,4-benzoxazin-3-on-6-yl]-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.24 g, yield: 72% | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1C=1C(N(C(=CC1)C(F)(F)F)C)=O | C18H12F4N2O3
